US04942173
A solution of 4-iodobenzoyl chloride (3.5 g) in dry ether (25 ml) was added to a stirred solution of 3-(1-hydroxyethyl)-3-n-propyloxetane (1.7 g) and pyridine (1.8 ml) in ether (50 ml) at 0° C. The resulting mixture was stirred for 24 hours at room temperature. After this time the mixture was washed with water and brine. The organic extracts were dried over anhydrous magnesium sulphate and then evaporated in vacuo. The residue was purified by column chromatography on silica (pre-eluted with 1% triethylamine in hexane) and eluted with hexane/ether mixtures. 3-[1-(4-Iodobenzoyloxy)ethyl]-3-n-propyloxetane was obtained as a colourless oil (1.8 g).

reactant | 4-iodobenzoyl chloride | 3.5 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | 3-(1-hydroxyethyl)-3-n-propyloxetane | 1.7 g | OC(C)C1(COC1)CCC | C8H16O2
reactant | pyridine | 1.8 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-[1-(4-Iodobenzoyloxy)ethyl]-3-n-propyloxetane | IC1=CC=C(C(=O)OC(C)C2(COC2)CCC)C=C1 | C15H19IO3
